US06008407
5-chloro-1,2-dimethyl-4,4,5-trifluorocyclohexene was prepared in the same manner as in Comparative Example 4 except that chlorotrifluoroethylene (CTFE), 2,3-dimethyl-1,3-butadiene, and nitrogen gas were continuously injected into the flow reactor at the rates of 33.8 g/hr, 23.8 g/hr and 0.4 mol/hr, respectively. Then, 5.8 g of unreacted chlorotrifluoroethylene (CTFE) was recovered. The resultant was purified by steam distillation, and then the water layer was removed to give 29.8 g of the mixture (GC%=51%).

reactant | chlorotrifluoroethylene | ClC(=C(F)F)F | C2ClF3
reactant | 2,3-dimethyl-1,3-butadiene | CC(=C)C(=C)C | C6H10
product | 5-chloro-1,2-dimethyl-4,4,5-trifluorocyclohexene | ClC1(C(CC(=C(C1)C)C)(F)F)F | C8H10ClF3
